US07662975B2
Trifluoro-methanesulfonic acid 3-(2,4-dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromen-7-yl ester (862 mg, 1.766 mol), Zn (CN)2 (310 mg) and Pd(PPh3)4 (204 mg) were dissolved in DMF (12 mL) at room temperature in a sealed tube. After 10 min, the reaction mixture was heated to 150° C. for 4 h. The reaction mixture was cooled to room temperature and ethyl acetate (200 mL) was added. The reaction mixture was then poured into a separation funnel, washed with water (2×100 ml) and brine (2×100 ml). The organic layer was dried over sodium sulfate and concentrated. The product was purified on silica gel eluted with 30-50% ethyl acetate in hexanes to yield 3-(2,4-Dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromene-7-carbonitrile as a slightly yellow solid.

reactant | Trifluoro-methanesulfonic acid 3-(2,4-dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromen-7-yl ester | 1.766 mol, 862 mg | COC1=C(C=CC(=C1)OC)C=1C(OC2=CC(=CC=C2C1CCOC)OS(=O)(=O)C(F)(F)F)=O | C21H19F3O8S
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 204 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(2,4-Dimethoxy-phenyl)-4-(2-methoxy-ethyl)-2-oxo-2H-chromene-7-carbonitrile | COC1=C(C=CC(=C1)OC)C=1C(OC2=CC(=CC=C2C1CCOC)C#N)=O | C21H19NO5
